US08975282B2
Step 6) N-(5-((2-(3-(2-hydroxyethyl)ureido)pyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
A mixture of phenyl (4-((6-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)pyridin-3-yl)oxy)pyridin-2-yl)carbamate (0.1 g, 0.187 mmol), NMP (10 mL) and 2-aminoethanol (14.0 mg, 0.224 mmol) was heated at 40° C. for 2 hours. The solvent was evaporated under reduced pressure at 40° C., and then diluted with EtOAc (20 mL). The precipitate was collected by filtration and washed with EtOAc (3 mL) to give the title compound as a white solid (92 mg, 98%).

reactant | phenyl (4-((6-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)pyridin-3-yl)oxy)pyridin-2-yl)carbamate | 0.187 mmol, 0.1 g | CN1N(C(C(=C1C)C(=O)NC1=CC=C(C=N1)OC1=CC(=NC=C1)NC(OC1=CC=CC=C1)=O)=O)C1=CC=CC=C1 | C29H24N6O5
reactant | 2-aminoethanol | 0.224 mmol, 14.0 mg | NCCO | C2H7NO
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | N-(5-((2-(3-(2-hydroxyethyl)ureido)pyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 92 mg, 98% | OCCNC(NC1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)=O | C25H25N7O5
